US04440779
Ethyl 5-chlorocarbonyl-1,4 dimethylpyrrole-2-acetate (29.3 g, 0.12 mol, prepared acc. to U.S. Pat. No. 3,950,355) is dissolved in 150 ml of 1:1 methylene chloride/ether and added over 10 minutes to a solution of pyridine (15 ml) and absolute ethanol (20 ml) in ether (100 ml) with stirring. After addition is complete, 4-N,N-dimethylaminopyridine (300 mg) is added. Stirring is continued for three hours. Ether (250 ml) is then added and deposited solids are removed by filtration. The organic solution is washed with aqueous 1 N HCl (2×100 ml), then brine (100 ml), and the ether layer is dried with magnesium sulfate. The solvent is then removed to give 26.3 g (87%) of ethyl-1,4 dimethyl-5-ethoxycarbonylpyrrole-2-acetate as a low melting red solid.

reactant | Ethyl 5-chlorocarbonyl-1,4 dimethylpyrrole-2-acetate | ClC(=O)C1=C(C=C(N1C)CC(=O)OCC)C | C11H14ClNO3
reactant | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | methylene chloride ether | 150 ml | C(Cl)Cl.CCOCC
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | Ether | 250 ml | CCOCC | C4H10O
product | ethyl-1,4 dimethyl-5-ethoxycarbonylpyrrole-2-acetate | 26.3 g, 87% | C(C)OC(CC=1N(C(=C(C1)C)C(=O)OCC)C)=O | C13H19NO4
